US07915411B2
[4-(4-Formyl-2-nitro-phenoxy)-phenyl]-carbamic acid tert-butyl ester
A mixture of 4-chloro-3-nitrobenzaldehyde and (4-Hydroxy-phenyl)-carbamic acid tert-butyl ester were reacted together in DMSO with addition of KOH to provide the title product.

reactant | 4-chloro-3-nitrobenzaldehyde | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | (4-Hydroxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)O)=O | C11H15NO3
reactant | KOH | [OH-].[K+]
solvent | DMSO | CS(=O)C | C2H6OS
product | [4-(4-Formyl-2-nitro-phenoxy)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC1=C(C=C(C=C1)C=O)[N+](=O)[O-])=O | C18H18N2O6
